US07115645B2
6-[[(4-Fluorophenyl)sulfonyl][1,2-diphenyl-1H-benzimidazol-5-yl]amino]hexanoic acid methyl ester
150 mg of N-(1,2-diphenyl-1H-benzimidazol-5-yl)-4-fluorobenzenesulfonamide was suspended in 0.5 ml of N,N-dimethylformamide, mixed with 12 mg of sodium hydride and stirred for 30 minutes at 20° C. 98 mg of 6-bromohexanoic acid methyl ester was added, allowed to stir for 15 hours, mixed with water, extracted three times with ethyl acetate, the extracts were dried on sodium sulfate, concentrated by evaporation in a vacuum, and the residue was chromatographed on silica gel.

reactant | N-(1,2-diphenyl-1H-benzimidazol-5-yl)-4-fluorobenzenesulfonamide | 150 mg | C1(=CC=CC=C1)N1C(=NC2=C1C=CC(=C2)NS(=O)(=O)C2=CC=C(C=C2)F)C2=CC=CC=C2 | C25H18FN3O2S
reactant | sodium hydride | 12 mg | [H-].[Na+]
reactant | 6-bromohexanoic acid methyl ester | 98 mg | COC(CCCCCBr)=O | C7H13BrO2
reactant | water | O | H2O
solvent | N,N-dimethylformamide | 0.5 ml | CN(C=O)C | C3H7NO
product | 6-[[(4-Fluorophenyl)sulfonyl][1,2-diphenyl-1H-benzimidazol-5-yl]amino]hexanoic acid methyl ester | COC(CCCCCN(C1=CC2=C(N(C(=N2)C2=CC=CC=C2)C2=CC=CC=C2)C=C1)S(=O)(=O)C1=CC=C(C=C1)F)=O | C32H30FN3O4S
